2194-09-01 07:28:00 Physician Resident Progress Note
Chief Complaint: 82 year old female admitted with decreased mental
   status, hypoxia.
    Extensive medical history including MDS, Crohn;'s disease, CAD, s/p
   NSTEMI, CRI, h/o DVT with saddle embolus on weekly lovenox due to GIBs
   /o breast Ca, on home O2 presenting with dyspnea, AMS. Was previously
   hospitalized, with dc on [**2194-8-30**] for same complaints. She was noted by
   daughter to be somnulent since d/c on home 02 0.5 L-2LNC. Day prior to
   admission, daughter noted thumb twitching, and picking at port a cath.
   VNA visited for line check and reported new incontinence.
   24 Hour Events:
   CXR repeated -showed some improvement by my read also better quality
   study  reduced haziness in RLL/[**Doctor Last Name **] - persistent retrocardiac opacity,
   decreased interstitial marking and cephalization suggesting decrease in
   fluid overload.
   Pt has been taking poor p.o since admission given poor mental status.
   Was on methylprednisone at home, switched to equivalent dose
   solumedrol. Spent day on IL NC with sAO2 OF 100% however when 02 dc'd
   pt desaturated into 80's consistently. BIPAPA reapplied at 8pm. Repeat
   venous blood gas unchanged from prior, showing  compensated respiratory
   acidosis.
   Allergies:
   History obtained from Family / FriendBelladonna Alkaloids
   itching; swolle
   Last dose of Antibiotics:
   Ciprofloxacin - [**2194-8-31**] 06:30 AM
   Cefipime - [**2194-8-31**] 03:22 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2194-8-31**] 08:00 AM
   Enoxaparin (Lovenox) - [**2194-8-31**] 03:22 PM
   Heparin Sodium (Prophylaxis) - [**2194-9-1**] 12:48 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-9-1**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.5
   HR: 77 (65 - 95) bpm
   BP: 153/64(88) {100/43(57) - 170/74(99)} mmHg
   RR: 30 (11 - 37) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.5 kg (admission): 68.5 kg
             Total In:
                                                                    454 mL
                                                                     71 mL
   PO:
             TF:
   IVF:
                                                                    454 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                  3,405 mL
                                                                    435 mL
   Urine:
                                                                  3,285 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,951 mL
                                                                   -364 mL
   Respiratory support
   Ventilator mode: Standby
   Vt (Spontaneous): 515 (320 - 752) mL
   PS : 8 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 25%
   PIP: 14 cmH2O
   SpO2: 96%
   ABG: ///36/
   Ve: 5.5 L/min
   Physical Examination
   HEENT: NC/AT/OPC, mucus membranes dry.
   Peripheral Vascular: (Right radial pulse: palpable, (Left radial pulse:
   palpable), (Right DP pulse: palpable), (Left DP pulse: palpable)
   Neuro: Limited secondary to language barrier, mental status.
   PERRLA, Alert, responds to stimuli.
   CVS: RRR, S1/S2 clear, no M/R/G
   LUNG: limited by moaning, seemed CTA through anterior chest.
   ABD: +ve BS, soft, NT/ND/no masses
   Extremities: edematous upper extremities, L > R . 2+ pitting edema in
   bilateral lower extremities.
   Skin:  Venous stasis changes in bilateral lower extremities, bilateral
   groin rash.
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   162 K/uL
   9.4 g/dL
   90 mg/dL
   1.9 mg/dL
   36 mEq/L
   5.7 mEq/L
   43 mg/dL
   102 mEq/L
   143 mEq/L
   29.8 %
   5.9 K/uL
        [image002.jpg]
                             [**2194-8-31**]  10:09 AM
                             [**2194-8-31**]  10:15 AM
                             [**2194-8-31**]  02:36 PM
                             [**2194-9-1**]  03:33 AM
   WBC
   5.9
   Hct
   29.8
   Plt
   162
   Cr
   1.9
   1.9
   Glucose
   71
   84
   90
   Other labs: Mg++:2.3 mg/dL, PO4:1.9 mg/dL
   Imaging: [**2194-9-1**] 9(3am) : Portable study, Poor inspiration, 7 ribs, no
   fracture, stable cardiomegaly, retrocardiac pleural effusion (
   interstitial edema, inc pulmonary vasculature, consistent with CHF.
   appears to be some interval improvement compared to [**2194-8-31**]
   Microbiology: drawn [**8-31**]: blood cx  [**3-5**] cultures grew gram positive
   cocci in clusters. ID/sensitivities pending/
   urine cx from catheter pending
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Etiology remains unclear, per daughter worse than baseline. [**Month (only) 60**] be
   secondary to infection (although no fever mounted), but potential
   sources include PNAA (retrocardiac opacity), DVT (L arm), port a cath
   entry site, foley (less likely given organisms)
   Pt on day 1 of vancomycin, d/c cefepime. Follow blood cx, white count
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
   Trending down, 5.9 today. Repeat pm K+
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   CXR improved. Continue to diurese with 20mg IV lasix today.  Monitor
   fluid status with caution not to overdiurese.
 ALTERATION IN NUTRITION
   Encourage p.o/p.o meds. If poor  p.o may consider NG tube tomorrow.
   ICU Care
   Nutrition:
   Glycemic Control:  ISS
   Lines:
   Indwelling Port (PortaCath) - [**2194-8-31**] 07:02 AM
   Prophylaxis:
   DVT: LMWH
   Stress ulcer:PPI
   VAP:
   Comments:
   Communication:  Comments: daughter present, very involved.
   Code status: DNI (do not intubate)
   Disposition: ICU

2194-09-01 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition:

2194-09-02 07:29:00 Physician Resident Progress Note
Chief Complaint: 82 year old woman admitted [**8-30**] with altered mental
   status, hypoxia, and noted on CXR to have retrocardiac opacity,
   pulmonary edema secondary to CHF with possible exacerbating factors
   including volume overload.
   24 Hour Events:
   Her mental status improved during the course of the day, and she was
   able to tolerate p.o. She did however develop loose stools, which were
   guiac positive x1 , however her hematocrit has remained stable.
   She met her goal diuresis of 1L net negative on 20mg IV lasix and has
   maintained sats in 90's on 0.5LNC. She wore CPAP overnight for 2 hours
   o/n then refused.
   Blood cultures x2 grew gram positive cocci in clusters, id/sensitivity
   pending. Drew set of surveillance cultures this a.m
   -Started on insulin sliding scale for hyperglycemia, urine cx no
   growth, gram + clusters [**3-3**]
   Allergies:
   Belladonna Alkaloids
   itching; swolle
   Last dose of Antibiotics:
   Ciprofloxacin - [**2194-8-31**] 06:30 AM
   Cefipime - [**2194-8-31**] 03:22 PM
   Vancomycin - [**2194-9-1**] 11:40 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-9-2**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.9
C (96.7
   HR: 67 (65 - 85) bpm
   BP: 136/48(66) {114/42(58) - 174/63(91)} mmHg
   RR: 29 (17 - 35) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64 kg (admission): 68.5 kg
             Total In:
                                                                  1,090 mL
                                                                     51 mL
   PO:
                                                                    650 mL
             TF:
   IVF:
                                                                    440 mL
                                                                     51 mL
   Blood products:
   Total out:
                                                                  2,155 mL
                                                                    575 mL
   Urine:
                                                                  2,155 mL
                                                                    575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,065 mL
                                                                   -525 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///39/
   Physical Examination
   Alert, talking to daughter in [**Name (NI) 302**]
   [**Name (NI) 3793**], no M/R/G, S1.S2 clear
   CVS: CTAB except decreased B/S crackles in LLL
   Abd: +Ve bs, soft, nt., nd. No masses
   LUE: decreased swelling, palpable radial pulse
   BLE: continued tenderness in lower extremeties, venous stasis changes.
   Labs / Radiology
   184 K/uL
   9.5 g/dL
   97 mg/dL
   1.9 mg/dL
   39 mEq/L
   5.0 mEq/L
   45 mg/dL
   98 mEq/L
   140 mEq/L
   30.5 %
   7.6 K/uL
        [image002.jpg]
                             [**2194-8-31**]  10:09 AM
                             [**2194-8-31**]  10:15 AM
                             [**2194-8-31**]  02:36 PM
                             [**2194-9-1**]  03:33 AM
                             [**2194-9-1**]  03:44 PM
                             [**2194-9-2**]  03:02 AM
   WBC
   5.9
   7.6
   Hct
   29.8
   31.7
   30.5
   Plt
   162
   184
   Cr
   1.9
   1.9
   2.0
   1.9
   TropT
   0.09
   Glucose
   71
   84
   90
   179
   97
   Other labs: PT / PTT / INR:10.5/25.6/0.9, CK / CKMB /
   Troponin-T:16//0.09, Differential-Neuts:77.7 %, Lymph:15.1 %, Mono:6.6
   %, Eos:0.4 %, Lactic Acid:2.4 mmol/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL,
   PO4:1.9 mg/dL
   Imaging: [**9-1**]: interval improvement pulmonary edema, stable retrocardiac
   opacity.
   Microbiology: survellaince cultures  pending
   ECG: pending
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Markedly improved in setting of abx. Hypercarbia stable to slightly
   increased suggesting not source of AMS. More likely infection. Continue
   to monitor.
   Infection: Sourcve remains unclear with continued absence of
   leukocytosis but clinical improvement.
   Day 2 of vancomycin. Continue
   f/u blood cultures + surveillance cultures. Pt had bacteremia with last
   admission treated with vanc and came back suggesting some nidus of
   infection.
   [**Month (only) 60**] consider remove portocath, stable retrocardiac opacity.
   GI-Bleed:
   Guiac positive HCT/BUN stable.
   rectal exam unrevealing.
   Continue to monitor H/H.
   Transfuse below 28.
   Acute Respiratory Failure -exacberbating factor remains [**Last Name (LF) 9877**], [**First Name3 (LF) **]
   have been infection.
   Hypercarbia
   Repeat VBG shows mildly increased hypercarbia, but continues to
   compensate.
   Continue to diurese with lasix IV 20 today goal negative 1L.
   Pt now on room air sating in low 90s.
   Continue to monitor, pulmonary toilet.
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
   Improved today.
   Repeat PM lytes.
 ALTERATION IN NUTRITION
   ICU Care
   Nutrition:
   Glycemic Control:  Comments: Hyperglycemia in setting of recent p.o.
   Euglycemic at next [**Location (un) 308**]. d'c ISS.
   Lines:
   Indwelling Port (PortaCath) - [**2194-8-31**] 07:02 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNI (do not intubate)
   Disposition:ICU for now

2194-09-03 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2194-9-2**] 01:39 PM
   Intermittently hypotensive while sleeping, MAP low 60's, DBP 20's -
   resolved upon waking.
   Missed steroid dose yesterday, restarted steroids.
   CPAP overnight - tolerated well.
   Diuresed -1.3L.
   Hypophosphatemia. Refused neutrophos.
   Cx neg x2
   Diarrhea x 4
   Pt refused to take lopressor.
   Allergies:
   Belladonna Alkaloids
   itching; swolle
   Last dose of Antibiotics:
   Cefipime - [**2194-8-31**] 03:22 PM
   Vancomycin - [**2194-9-1**] 11:40 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2194-9-2**] 11:48 AM
   Furosemide (Lasix) - [**2194-9-2**] 01:01 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-9-3**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.6
C (96.1
   HR: 63 (56 - 85) bpm
   BP: 84/39(49) {77/29(43) - 128/53(115)} mmHg
   RR: 13 (10 - 34) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.7 kg (admission): 68.5 kg
             Total In:
                                                                    820 mL
                                                                     73 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                    220 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  2,335 mL
                                                                    440 mL
   Urine:
                                                                  2,335 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,515 mL
                                                                   -367 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///37/
   Physical Examination
   Neuro: Awake, interactive
   CV: rrr, without r/g/m
   Resp: coarse breath sounds bilaterally, poor air movement
   Abd: soft, nontender, nondistended, +BS
   Ext: warm
   Labs / Radiology
   140 K/uL
   8.9 g/dL
   110 mg/dL
   1.9 mg/dL
   37 mEq/L
   5.6 mEq/L
   41 mg/dL
   99 mEq/L
   140 mEq/L
   29.3 %
   4.4 K/uL
        [image002.jpg]
                             [**2194-8-31**]  10:09 AM
                             [**2194-8-31**]  10:15 AM
                             [**2194-8-31**]  02:36 PM
                             [**2194-9-1**]  03:33 AM
                             [**2194-9-1**]  03:44 PM
                             [**2194-9-2**]  03:02 AM
                             [**2194-9-2**]  06:13 PM
                             [**2194-9-3**]  05:23 AM
   WBC
   5.9
   7.6
   4.4
   Hct
   29.8
   31.7
   30.5
   29.3
   Plt
   162
   184
   140
   Cr
   1.9
   1.9
   2.0
   1.9
   2.0
   1.9
   TropT
   0.09
   Glucose
   71
   84
   90
   179
   97
   123
   110
   Other labs: PT / PTT / INR:10.5/25.6/0.9, CK / CKMB /
   Troponin-T:16//0.09, Differential-Neuts:77.7 %, Lymph:15.1 %, Mono:6.6
   %, Eos:0.4 %, Lactic Acid:2.4 mmol/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.4 mg/dL
   Assessment and Plan
   82F presented with line infection and altered mental status.
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Markedly improved in setting of abx. Hypercarbia stable to slightly
   increased suggesting not source of AMS. More likely infection. Continue
   to monitor.
   Infection: Source remains unclear, [**Name2 (NI) 9890**] of leukyocyosis, clinical
   improvement
   - Day [**4-12**] of vancomycin
   - identification of culture showed coag negative staph
   - Cx neg x2
   - Surveillence cx from port
   Crohn
s: guiac positive stool, stable HCT, BUN/Cr
   - Continue to monitor HCT
   - Cont steroids
 to wean
   - Diarrhea
 check c. diff.
   Acute Respiratory Failure -exacerbating factor remains unclear, may
   have been infection.
   Hypercarbia stable with PCO2 in mid 60s, continues to compensate.
   - Continue CPAP at night
   - Floor sleep consult
   - Nasal canula during day
   CHF: Patient was negative 1.3L yestertay
   - diurese to goal of negative 1L - continue to diurese lasix IV 20mg
   - continue to monitor
   - Pulmonary toilet
   - d/c lopressor
per patient
s request
   Hyperkalemia: stable yesterday
   - check 6pm lytes
   - Kayexelate 30mg this AM
   Anemia
   -epo
   FEN: regular diet, replete lytes as needed
    Blood sugars: increase prednisone, no ISS
   - start insulin sliding scale
   - check glucose prior to meals and in PM
   PPx:
   - atovaquone
   - SC LMWH
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2194-8-31**] 07:02 AM
   Prophylaxis:
   DVT: LMWH
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNI (do not intubate)
   Disposition: